US05948782
A mixture of ethyl 2-chloromethyl-6,7-dimethoxy-4- (3,4-dimethoxyphenyl)quinoline-3-carboxylate (1.5 g), 2-hydroxy-6-methylpyridine (0.4 g), potassium carbonate (0.511 g) and N,N-dimethylformamide (20 ml) was stirred at 120° C. for 2 hours. Then the mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), and the solvent was distilled off. The residual oil was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate, ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)- 2-[(2-methyl-6-pyridyl)oxymethyl]quinoline-3-carboxylate (0.79 g, 46%) was obtained and recrystallized from chloroform/hexane.

reactant | ethyl 2-chloromethyl-6,7-dimethoxy-4- (3,4-dimethoxyphenyl)quinoline-3-carboxylate | 1.5 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | 2-hydroxy-6-methylpyridine | 0.4 g | OC1=NC(=CC=C1)C | C6H7NO
reactant | potassium carbonate | 0.511 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)- 2-[(2-methyl-6-pyridyl)oxymethyl]quinoline-3-carboxylate | 0.79 g, 46% | COC=1C=C2C(=C(C(=NC2=CC1OC)COC1=CC=CC(=N1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C29H30N2O7
